US03987051
5-Acetyl-1-(2-furanyl)methyl-4-piperidino-1H-pyrazolo[3,4-b]pyridine is treated with concentrated sulfuric acid according to the procedure in Example 4 to obtain 5-acetyl-4-piperidino-1H-pyrazolo[3,4-b]pyridine.

reactant | 5-Acetyl-1-(2-furanyl)methyl-4-piperidino-1H-pyrazolo[3,4-b]pyridine | C(C)(=O)C=1C(=C2C(=NC1)N(N=C2)CC=2OC=CC2)N2CCCCC2 | C18H20N4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-acetyl-4-piperidino-1H-pyrazolo[3,4-b]pyridine | C(C)(=O)C=1C(=C2C(=NC1)NN=C2)N2CCCCC2 | C13H16N4O
